US07414049B2
c) (S)-3-Amino-5-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the (RS)-5-(2-benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester with hydrochlorid acid (37%) in dioxane yielded quantitatively the title compound as a light yellow foam; MS (m/e): 438 (M+H)+.

reactant | (RS)-5-(2-benzyloxy-ethyl)-3-tert-butoxycarbonylamino-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester | FC(COC(=O)N1C2=C(N(C(C(C1)NC(=O)OC(C)(C)C)=O)CCOCC1=CC=CC=C1)C=CC=C2)(F)F | C26H30F3N3O6
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride | Cl.FC(COC(=O)N1C2=C(N(C([C@H](C1)N)=O)CCOCC1=CC=CC=C1)C=CC=C2)(F)F | InChI=1S/C21H22F3N3O4.ClH/c22-21(23,24)14-31-20(29)27-12-16(25)19(28)26(17-8-4-5-9-18(17)27)10-11-30-13-15-6-2-1-3-7-15;/h1-9,16H,10-14,25H2;1H/t16-;/m0./s1
